US07482354B2
Ethyl 8-[(aminocarbonyl)amino]-1-methyl-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate [B00-X02-M00(C01)-D01]
1.00 g (3.7 mmol) of ethyl 8-amino-1-methyl-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate were dissolved in 50 mL of pyridine and 1 mL (8.0 mmol) of trichloroacetylisocyanate were added. The mixture was stirred overnight at room temperature. The solvent was then evaporated under reduced pressure and the residue was treated with 50 mL of methanol. After 2 hours under stirring the solvent was removed, the residue redissolved with dichloromethane and washed with a diluted solution of ammonium hydrate. After drying over anhydrous Na2SO4 the organic layer was evaporated to dryness and the residue purified by chromatography on a silica gel column (eluant: dichloromethane/acetone 4/1) leading 0.40 g (34% yield) of the title compound.

reactant | ethyl 8-amino-1-methyl-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 3.7 mmol, 1.00 g | NC1=NC=2C3=C(C=CC2C=N1)C(=NN3C)C(=O)OCC | C13H13N5O2
reactant | trichloroacetylisocyanate | 8.0 mmol, 1 mL | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl 8-[(aminocarbonyl)amino]-1-methyl-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 0.40 g, 34% yield | NC(=O)NC1=NC=2C3=C(C=CC2C=N1)C(=NN3C)C(=O)OCC | C14H14N6O3
